US07601844B2
tert-Butyl (2R)-1-(4-(4-chloro-3-methoxyphenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (153 mg, 0.33 mmol) was added 4N HCl in dioxane (2 mL) and stirred for 60 min. The solvents were removed in vacuo and the resulting solids were dried azeotropically with toluene and then further dried under high vacuum to afford (2R)-2-amino-1-(4-(4-chloro-3-methoxyphenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride as a white solid.

reactant | tert-Butyl (2R)-1-(4-(4-chloro-3-methoxyphenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.33 mmol, 153 mg | ClC1=C(C=C(C=C1)C1(C(CN(CC1)C([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O)(C)C)O)OC | C24H37ClN2O5
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (2R)-2-amino-1-(4-(4-chloro-3-methoxyphenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CC(C(CC1)(O)C1=CC(=C(C=C1)Cl)OC)(C)C)C(C)C | InChI=1S/C19H29ClN2O3.ClH/c1-12(2)16(21)17(23)22-9-8-19(24,18(3,4)11-22)13-6-7-14(20)15(10-13)25-5;/h6-7,10,12,16,24H,8-9,11,21H2,1-5H3;1H/t16-,19?;/m1./s1
